US07317023B2
Step (b). Preparation of 2-[2-(4-Iodophenyl)ethyl]-1H-isoindole-1,3(2H)-dione
A solution of 2-(4-iodophenyl)ethylamine (7.08 g) and phthalic anhydride (4.24 g) in acetic acid (100 mL) was refluxed for 4 h. The solvent was evaporated and the residue triturated with ethanol (100 mL). The solid was filtered to afford the title intermediate (7.0 g) as a white solid.

reactant | 2-(4-iodophenyl)ethylamine | 7.08 g | IC1=CC=C(C=C1)CCN | C8H10IN
reactant | phthalic anhydride | 4.24 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 2-[2-(4-Iodophenyl)ethyl]-1H-isoindole-1,3(2H)-dione | 7.0 g | IC1=CC=C(C=C1)CCN1C(C2=CC=CC=C2C1=O)=O | C16H12INO2
